US07393868B2
5-(4-Bromo-phenyl)-pyrazole-1-carboxylic acid tert-butyl ester
Stir a mixture of 5-(4-bromo-phenyl)-pyrazole (577 mg, 2.6 mmol, 1 eq.), di-tert-butyl-dicarbonate (737 mg. 3.38 mmol), and dimethylaminopyridine (32 mg, 0.25 mmol) in 16 mL acetonitrile overnight. Add 200 mL diethyl ether and 50 mL water. Wash the organic layer with water, saturated aq. sodium chloride and evaporate solvent to afford the title compound 800 mg, 95%.

reactant | 5-(4-bromo-phenyl)-pyrazole | 2.6 mmol, 577 mg, 1 eq. | BrC1=CC=C(C=C1)C1=CC=NN1 | C9H7BrN2
reactant | di-tert-butyl-dicarbonate | 3.38 mmol, 737 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.25 mmol, 32 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 5-(4-Bromo-phenyl)-pyrazole-1-carboxylic acid tert-butyl ester | 800 mg, 95% | C(C)(C)(C)OC(=O)N1N=CC=C1C1=CC=C(C=C1)Br | C14H15BrN2O2
